US09227923B2
4-Bromo-3-methylbenzoic acid (3.0 g) was dissolved in N,N-dimethylformamide (20 ml). The resulting solution was subjected to deaeration three times under argon atmosphere (i.e., the reaction solution was de-pressurized to 20 mmHg, and then brought back to atmospheric pressure under argon atmosphere). To the solution, zinc cyanide (1.6 g) and tetrakis(triphenylphosphine) palladium (0) (1.6 g) were added and the mixture was stirred under heating at 90° C. for 6 hours under argon atmosphere. After adjusting to room temperature, precipitates were filtered off. The filtrate was diluted with water, added with lithium hydroxide monohydrate (2.9 g) and washed twice with tert-butyl methyl ether. The aqueous phase was acidified with 2N hydrochloric acid and extracted twice with ethyl acetate. The organic phases were combined, washed with brine and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain 4-cyano-3methylbenzoic acid as a crude product (1.9 g). Without further purification, the crude product was used for the next reaction.

reactant | 4-Bromo-3-methylbenzoic acid | 3.0 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 1.6 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium (0) | 1.6 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-cyano-3methylbenzoic acid | C(#N)C1=C(C=C(C(=O)O)C=C1)C | C9H7NO2
